US03941782
A. Ethyl 2-methyl-4-morpholinobutyrate
A mixture of 40.0 g. (0.19 mole) of ethyl 4-bromo-2-methylbutyrate (Tetrahedron 21, 2966 (1965)), 66.0 g. (0.76 mole) of morpholine and 750 ml. of benzene was heated at 60°C. for 5 hours and stirred at room temperature for a total of 40 hours. A colorless solid was removed by filtration, and the mother liquor was evaporated to give a colorless, mobile residue. This material was combined with 250 ml. of ether and filtered to remove a small amount of additional solid. The solution was concentrated and the residue distilled to give the desired material as 38.0 g. (93%) of colorless liquid (b.p. 71°-73°C. at 0.10 mm).

reactant | ethyl 4-bromo-2-methylbutyrate | 0.19 mole | BrCCC(C(=O)OCC)C | C7H13BrO2
reactant | morpholine | 0.76 mole | N1CCOCC1 | C4H9NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Ethyl 2-methyl-4-morpholinobutyrate | CC(C(=O)OCC)CCN1CCOCC1 | C11H21NO3
